US07709521B2
(i) Methyl 4-[[(2Z)-2-[(4-fluorophenyl)hydrazono]propyl]oxy]-benzoate
Methyl 4-(2-oxopropoxy)benzoate (6.21 g) was added to a solution of 4-fluorophenylhydrazine (2.88 g) in ethanol (50 ml). After 1.5 h the precipitate was collected, washed with ethanol and isohexane and dried to give the sub-title compound (3.72 g).

reactant | Methyl 4-(2-oxopropoxy)benzoate | 6.21 g | O=C(COC1=CC=C(C(=O)OC)C=C1)C | C11H12O4
reactant | 4-fluorophenylhydrazine | 2.88 g | FC1=CC=C(C=C1)NN | C6H7FN2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Methyl 4-[[(2Z)-2-[(4-fluorophenyl)hydrazono]propyl]oxy]-benzoate | 3.72 g | FC1=CC=C(C=C1)N\N=C(/COC1=CC=C(C(=O)OC)C=C1)\C | C17H17FN2O3
